US06506800B2
Preparation of 3-(4-chlorophenyl)-3-bromopropyl methyl ether
A mixture of 3-(4-chlorophenyl)propyl methyl ether (8.6 g, 46.5 mmol), N-bromosuccinimide (NBS; 9.43 g, 52.9 mmol), and a catalyst amount of 2,2′-azobisisobutyronitrile in ethylene dichloride (236 ml) was heated at 65° to 70° C. for three hours. The cooled reaction mixture was washed successively with water, saturated aqueous sodium bicarbonate and water, dried over anhydrous sodium sulfate and concentrated in vacuo to afford crude title compound (13.3 g) which was used without further purification.

reactant | 3-(4-chlorophenyl)propyl methyl ether | 46.5 mmol, 8.6 g | COCCCC1=CC=C(C=C1)Cl | C10H13ClO
reactant | N-bromosuccinimide | 52.9 mmol, 9.43 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 2,2′-azobisisobutyronitrile | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | ethylene dichloride | 236 ml | C(CCl)Cl | C2H4Cl2
product | 3-(4-chlorophenyl)-3-bromopropyl methyl ether | 13.3 g | COCCC(Br)C1=CC=C(C=C1)Cl | C10H12BrClO
